data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_246971_0,[N:1](/[C:4](=[C:3](\[O:5]/[C:2](=[N:6]\[H:9])[H:10])[H:11])[H:12])([H:7])[H:8]>>[N:1]([C:4]1([H:12])[C:3](/[C:2](=[N:6]\[H:9])[H:10])([H:11])[O:5]1)([H:7])[H:8],46.477042500008565
MR_296_0,[C:1]([C:3]([C:4]([C:2]([H:11])([H:12])[H:13])([H:6])[H:7])=[O:5])([H:8])([H:9])[H:10]>>[C:1](/[C:3](=[C:4](\[C:2]([H:11])([H:12])[H:13])[H:7])[O:5][H:6])([H:8])([H:9])[H:10],68.5405699999832
MR_136116_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])(/[C:4](=[C:5](\[O:7][H:9])[H:13])[O:6][H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:3]([C:2]([H:14])([H:15])[H:16])[C:4]1([C:5]([O:7][H:9])([H:10])[H:13])[O:6][H:8],72.7398000000106
MR_640925_0,[C:1]([C:4]([N:2](/[C:3]([O:6][H:10])=[N:7]\[H:11])[O:5][H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:7](/[C:3](=[N:2]/[O:5][H:9])[O:6][H:10])[H:11])=[O:8])([H:12])([H:13])[H:14],36.846799999960496
MR_312268_1,[C:1]([N:3]=[O:6])([C:4]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:7]\[H:10])[H:13])[O:8][H:9])([H:11])[H:12]>>[C:1]([N:3](/[C:5](=[N:7]\[H:10])[H:13])[O:6][H:9])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:11])[H:12],42.08077749997926
MR_639930_0,[C@@:1](/[C:3](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])[O:7][H:9])([N:4]([H:11])[H:12])(/[C:5](=[N:8]\[H:13])[H:14])[H:10]>>[C:1](=[C:3](\[C@:6]([C:2]([H:16])([H:17])[H:18])(/[C:5](=[N:8]\[H:13])[H:14])[H:15])[O:7][H:9])(\[N:4]([H:11])[H:12])[H:10],67.4393075000171
MR_79251_0,[C:1]1([H:10])([H:11])[N:3]([C:2]([H:14])([H:15])[H:16])[C:6]2([H:12])[N:4]([H:9])[C:7]2([H:13])[C:5]1=[O:8]>>[C:1]1([H:10])([H:11])[N:3]([C:2]([H:14])([H:15])[H:16])[C:6]([H:12])=[C:7]([H:13])[N:4]([H:9])[C:5]1=[O:8],39.13843000002444
MR_440145_2,[C:1]1([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C@@:2]([C:6]([O:8][H:10])[N:9][N:7]([H:12])[H:13])([H:11])[C:3]1([H:14])[H:15]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:3]([H:14])([H:15])[C:2]([H:11])=[C:6]([O:8][H:10])[N:9]1[N:7]([H:12])[H:13],49.6841950000082
MR_251339_1,[C:1]1([C:2]([H:11])([H:12])[H:13])([O:6][H:8])[C:4]([C:3]([H:14])([H:15])[H:16])([O:5][H:9])[N:7]1[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]\[H:10])([O:5][H:9])[O:6][H:8],46.74561250000821
MR_321799_1,[C:1]([C:4]([N:3]([O:7][C:5](=[O:8])[H:10])[H:9])[C:6]([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:4]1([C@:6]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:10])[H:11])[N:3]([H:9])[O:7]1)([H:12])([H:13])[H:14],61.81690750001593
MR_436943_1,[C:1]([N:4]([N:3]([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:7]/[H:10])[H:13])[H:9])([O:6][H:8])([H:11])[H:12]>>[C:1]([N:4]([N:3]([C:2]([H:14])([H:15])[H:16])[C:5]([N:7]([H:8])[H:10])([H:12])[H:13])[H:9])(=[O:6])[H:11],40.5823074999816
MR_7165_0,[C:1]([N:3]([C:2]([H:11])([H:12])[H:13])[H:8])([C:4]([O:5][H:7])=[O:6])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[N:3]([C:2]([H:11])([H:12])[H:13])[C:4]1([O:5][H:7])[O:6][H:8],69.4862125000212
MR_54253_0,[C:1]([N:4]([C:5]([C:2]([H:12])([H:14])[H:15])=[O:7])[C:6]([C:3]([H:13])([H:16])[H:17])=[O:8])([H:9])([H:10])[H:11]>>[C:1](/[N:4]=[C:5](\[C:2]([H:12])([H:14])[H:15])[O:7][C:6]([C:3]([H:13])([H:16])[H:17])=[O:8])([H:9])([H:10])[H:11],34.815582499988125
MR_477759_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:4]2([O:7][H:9])[C:6]([H:11])=[C:5]([C:2]([H:12])([H:13])[H:14])[N:8]12>>[C:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:4]([O:7][H:9])=[C:6]([H:11])[C:5]([C:2]([H:12])([H:13])[H:14])=[N:8]1,10.714562500021287
MR_151284_0,[C:1]([C:2]([H:13])([H:14])[H:15])([O:5][C:4](=[C:3]([O:6][H:8])[O:7][H:9])[H:10])([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([C:3](=[O:6])[O:7][H:9])([O:5][H:8])[H:10])([H:11])[H:12],67.98084000004096
MR_592223_1,[C@:1]([C:2]([O:7][H:9])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:4]([O:6][H:8])[H:10])[N:5]([H:11])[H:12]>>[C@:1]([C:2]([N:4]([O:6][H:8])[H:10])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:5]([H:11])[H:12])[O:7][H:9],72.81259000000517
MR_493298_1,[N:1]([O:4][H:6])(/[N:5]=[C:3](/[N:2]([H:8])[H:9])[H:10])[H:7]>>[N:1](\[O:4][H:6])=[N:5]/[C:3]([N:2]([H:8])[H:9])([H:7])[H:10],61.43350500002086
MR_391720_1,[C@@:1]([C@:2]1([H:11])[C:3]([H:14])([H:15])[O:7]1)([N:5]([C:4]([H:16])([H:17])[H:18])[O:8][H:9])([N:6]([H:12])[H:13])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:14])([H:15])[O:7]1)([N:5]([C:4]([H:16])([H:17])[H:18])[O:8][H:9])([N:6]([H:12])[H:13])[H:10],62.10869499999262
MR_542295_0,[C:1]([C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])=[O:9])([C:6](=[C:7]([H:19])[H:20])[H:12])([O:8][H:10])[H:11]>>[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([C:5]([C:6](=[C:7]([H:19])[H:20])[H:12])=[O:9])([O:8][H:10])[H:11],58.61916749999253
MR_447358_1,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[N:6]/[H:11])=[N:7]/[H:12])([O:5][H:8])([H:13])[H:14]>>[C:1](/[C:2]([N:4]([H:9])[H:10])=[N:6]/[H:11])(/[C:3](=[N:7]\[H:12])[H:14])([O:5][H:8])[H:13],64.20517249997857
